US05550258
625 mg of (1R)-trans-3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylic acid chloride was added under ice-water cooling to a mixed solution of 400 mg of (RS)-2-methyl-4-methylidene-3-ethylcyclopent-2-en-1-ol, 5 mg of 2,6-di-t-butyl-4-methylphenol and 274 mg of pyridine in 6 ml of toluene. The reaction was continued at an ambient temperature for eight hours. The reaction solution was added to a 5% citric acid solution under ice-water cooling, and extracted three times with diethyl ether. The combined ether layer was washed successively with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the residue was subjected to silica gel column chromatography to yield 781 mg of (RS)-2-methyl-4-methylidene-3-ethyl-2-cyclopenten-1-yl (1R)-trans-3-(2,2-dichloro-vinyl)-2,2-dimethylcyclopropanecarboxylate (Compound No.5). Yield 82%.

reactant | (1R)-trans-3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylic acid chloride | 625 mg | ClC(=C[C@H]1C([C@@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
reactant | (RS)-2-methyl-4-methylidene-3-ethylcyclopent-2-en-1-ol | 400 mg | CC=1C(CC(C1CC)=C)O | C9H14O
reactant | pyridine | 274 mg | N1=CC=CC=C1 | C5H5N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 2,6-di-t-butyl-4-methylphenol | 5 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | (RS)-2-methyl-4-methylidene-3-ethyl-2-cyclopenten-1-yl (1R)-trans-3-(2,2-dichloro-vinyl)-2,2-dimethylcyclopropanecarboxylate | 781 mg, Yield 82% | ClC(=C[C@H]1C([C@@H]1C(=O)OC1C(=C(C(C1)=C)CC)C)(C)C)Cl | C17H22Cl2O2
